US04571345
A solution of 2,6-dimethylcyclohexanone (35 g, 0.277 mole) in ether (200 ml) was cooled to -78° C. and treated with a 2-fold excess of a solution of methyl magnesium bromide in ether (2.8M, 198 ml). After stirring at -78° C. for 3 hours the reaction mixture was warmed to 0° C. and quenched carefully with water and brine. The organic layer was separated, dried (MgSO4) and the ether evaporated under reduced pressure to give 1,2,6-trimethylcyclohexanol (32.2 g).

reactant | 2,6-dimethylcyclohexanone | 0.277 mole, 35 g | CC1C(C(CCC1)C)=O | C8H14O
reactant | methyl magnesium bromide | C[Mg]Br
solvent | ether | 200 ml | CCOCC | C4H10O
solvent | ether | 2.8M, 198 ml | CCOCC | C4H10O
product | 1,2,6-trimethylcyclohexanol | 32.2 g | CC1(C(CCCC1C)C)O | C9H18O
